US07439377B2
To a mixture containing 50 g of the liquid fraction 4 (Liquid 4) prepared in Comparative Example 4 and 50 g of decanoic acid, there was added 300 g of acetone to thus form a mixed solution and the resulting solution was cooled at −35° C. for 3 hour with stirring. Then the solution was fractionated into a solid phase and a liquid phase through filtration under reduced pressure, followed by the removal of the acetone from the solid and liquid phases through distillation to thus give 53 g of a solid fraction 8 (Solid 8) and 46 g of a liquid fraction 8 (Liquid 8), respectively. The concentration results for CLA isomer are listed in the following Table 23 and the concentration results for octadecenoic acid isomer are listed in the following Table 24.

reactant | decanoic acid | 50 g | C(CCCCCCCCC)(=O)O | C10H20O2
solvent | acetone | 300 g | CC(=O)C | C3H6O
product | octadecenoic acid | C(C=CCCCCCCCCCCCCCCC)(=O)O | C18H34O2
